US04221802
Reacting ethylenediamine with 5-benzyl-4-chloromethyloxazole by the procedure of Example 34, then reacting the resulting N-(5-benzyl-4-oxazolymethyl)-ethylenediamine with methyl isothiocyanate by the procedure of Example 3(b) and chromatographing gives N-methyl-N'-[2-((5-benzyl-4-oxazolyl)methylamino)ethyl]-thiourea. Reacting this thiourea with lead cyanamide by the procedure of Example 3(b) gives N-[2-((5-benzyl-4-oxaxzolyl)methylamino)ethyl]-N'-cyano-N"-methylguanidine

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 5-benzyl-4-chloromethyloxazole | C(C1=CC=CC=C1)C1=C(N=CO1)CCl | C11H10ClNO
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | N-methyl-N'-[2-((5-benzyl-4-oxazolyl)methylamino)ethyl]-thiourea | CNC(=S)NCCNCC=1N=COC1CC1=CC=CC=C1 | C15H20N4OS
